US04032525
A solution of 95 g. of crude 2-(4-methyl-phenoxy)-5-methyl-phenylacetonitrile in 500 ml. of ethanol is treated with a solution of 67 g. of potassium hydroxide in 120 ml. of water and heated to reflux for 5 hours. Then, the ethanol is evaporated in vacuo and the residue diluted with 500 ml. of water. The resulting mixture is extracted twice with ether. The ethereal extracts are extracted twice with sodium bicarbonate solution. The combined aqueous solutions are acidified and extracted three times with ether. The ethereal extracts are washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated in vacuo, and there is obtained 2-(4-methyl-phenoxy)-5-methyl-phenylacetic acid which, after recrystallization from methanol/water, melts at 101°-104° C.

reactant | 2-(4-methyl-phenoxy)-5-methyl-phenylacetonitrile | CC1=CC=C(OC2=C(C=C(C=C2)C)CC#N)C=C1 | C16H15NO
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
product | 2-(4-methyl-phenoxy)-5-methyl-phenylacetic acid | CC1=CC=C(OC2=C(C=C(C=C2)C)CC(=O)O)C=C1 | C16H16O3
